US03978129
1-Cyclopropyl-3-piperidinyl-1-(3-trifluoromethylphenyl)-1-propanol Hydrochloride.
The Grignard reagent prepared from 14.5 g. (0.6 mole) of magnesium and 136 g. (0.6 mole) of m-bromobenzotrifluoride in 800 ml. of dry ether was cooled to -30°C. and treated with 53.5 g. (0.296 mole) of crude cyclopropyl 2-piperidinylethyl ketone in 200 ml. of ether at a rate that the temperature was maintained below -20°C. After addition, the mixture was stirred and allowed to warm to room temperature over a one-hour period. The reaction mixture was treated with 32 g. of ammonium chloride in 170 ml. of water and the ether layer was separated. The remainder of the reaction mixture was filtered and the resulting solid precipitate was extracted with 200 ml. portions of ether. The combined ether extracts were dried over magnesium sulfate and concentrated to an oil. The oil was distilled under reduced pressure and the distillate was converted to the hydrochloride salt. Recrystallization from acetone-ethanol mixture gave 3.6 g. (17%) of pure product which melted at 193°-194°C. after drying.

reactant | magnesium | 0.6 mole | [Mg] | Mg
reactant | m-bromobenzotrifluoride | 0.6 mole | BrC=1C=C(C=CC1)C(F)(F)F | C7H4BrF3
reactant | cyclopropyl 2-piperidinylethyl ketone | 0.296 mole | N1(CCCCC1)CCC(=O)C1CC1 | C11H19NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | 1-Cyclopropyl-3-piperidinyl-1-(3-trifluoromethylphenyl)-1-propanol Hydrochloride | Cl.C1(CC1)C(CCN1CCCCC1)(O)C1=CC(=CC=C1)C(F)(F)F | InChI=1S/C18H24F3NO.ClH/c19-18(20,21)16-6-4-5-15(13-16)17(23,14-7-8-14)9-12-22-10-2-1-3-11-22;/h4-6,13-14,23H,1-3,7-12H2;1H
